US07407968B2
4-[(3-Furylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide
Following the general procedure for Intermediate 2 using 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide (103 mg, 0.296 mmol) and 3-furylmethylamine (35 mg, 0.355 mmol) in 3 mL of EtOH containing TEA (0.060 mL, 0.444 mmol). The product was purified by flash chromatography on silica gel using 3:1/hexanes:EtOAc as eluent. Yield: 114 mg (91%); 1H NMR (400 MHz, CHLOROFORM-D) δ 4.26 (q, J=8.40 Hz, 4H), 4.44 (d, J=5.27 Hz, 2H), 6.43 (m, 1H), 7.00 (d, J=8.98 Hz, 1H), 7.46 (m, 2H), 7.55 (dd, J=8.88, 2.05 Hz, 1H), 8.32 (d, J=2.15 Hz, 1H), 8.45 (m, 1H); MS (ESI) 425.72 (MH+).

reactant | 4-fluoro-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | 0.296 mmol, 103 mg | FC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C11H7F7N2O3
reactant | 3-furylmethylamine | 0.355 mmol, 35 mg | O1C=C(C=C1)CN | C5H7NO
solvent | EtOH | 3 mL | CCO | C2H6O
product | 4-[(3-Furylmethyl)amino]-3-nitro-N,N-bis(2,2,2-trifluoroethyl)benzamide | O1C=C(C=C1)CNC1=C(C=C(C(=O)N(CC(F)(F)F)CC(F)(F)F)C=C1)[N+](=O)[O-] | C16H13F6N3O4
